US07192982B2
(2S)-3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid
The title compound was prepared from (S)-3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid ethyl ester by the standard hydrolysis procedure C (LiOH). MS(ES) for C27H30O5 [M−H]−: 433.1

reactant | (S)-3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)CC1=CC=CC=C1)OCC)=O | C29H34O5
reactant | LiOH | [Li+].[OH-]
product | (2S)-3-{4-[3-(4-Benzyl-phenoxy)-propoxy]-phenyl}-2-ethoxy-propionic acid | C(C1=CC=CC=C1)C1=CC=C(OCCCOC2=CC=C(C=C2)C[C@@H](C(=O)O)OCC)C=C1 | C27H30O5
